Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
codeine / Persulfates
 
Attending: ___.
 
Chief Complaint:
right SDH, SAH s/p fall

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ female who presents to ___ 
on
___ with a mild TBI.  Pt with unwitnessed fall and + LOC.
Husband was walking in front of her and heard her fall.  He
believes she tripped on the curb but he did not see the event.  
+
LOC for ___ minutes. Pt recalls waking up in Ambulance.  Taken 
to
OSH where head CT demonstrated right acute SDH and trace SAH and
the patient was transferred for further evaluation. ___ endorses
headache and nausea, no vomiting.  She also reports displaced 
and
loose front teeth.  Denies numbness, weakness, vision changes. 
Pt
reports laceration on dorsal right hand sutured and bandaged at
OSH for persistent bleeding.

 
Past Medical History:
HTN, HLD, gout, lymphoma, hx stroke/brain stem hemorrhage ___,
no residual deficits, s/p appendectomy, cholecystectomy,
hysterectomy, s/p meniscus repair

 
Social History:
___
Family History:
NC
 
Physical Exam:
On Discharge
Opens eyes: [X]spontaneous [ ]to voice [ ]to noxious

Orientation: [X]Person [X]Place [X]Time

Follows commands: [ ]Simple [X]Complex [ ]None

Pupils:  PERRL 2mm

EOM: [X]Full [ ]Restricted

Face Symmetric: [ ]Yes [X]No secondary to severe facial
ecchymosis

Tongue Midline: [X]Yes [ ]No

Pronator Drift [ ]Yes [X]No     Speech Fluent: [X]Yes [ ]No

Comprehension intact [X]Yes [ ]No

Motor:
Deltoid  Bicep  TricepGrip
Right5  5       5             4 
Left5         5       5             5

IPQuadHamATEHLGast

 
Pertinent Results:
see omr
 
Brief Hospital Course:
Ms. ___ was admitted to the Neurosurgery service s/p fall. 
Follow up imaging on ___ demonstrated stable SDHs and so she was 
admitted to the floor for further monitoring and she remained 
Neurologically intact throughout her hospital stay.  Given the 
likely mechanical nature of her fall reported by family no 
syncope work up was required.  She remained on telemetry with no 
events.  She was evaluated by ___ for her dental injury and 
they repositioned her teeth and recommended a strict liquid 
diet.

She was seen and evaluated by Physical Therapy and Occupational 
therapy who felt that she was safe to discharge home.

At the time of discharge she was tolerating a full liquid, 
ambulating with a walker, afebrile with stable vital signs.
 
Medications on Admission:
ASA 81mg, Calcium 500 + D Daily, Allopurinol ___ Daily, 
Metoprolol Tartrate 50mg BID, Atorvastatin 10mg QHS, Nifedipine
ER 30mg Daily, MVI, Magnesium, red yeast extract

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Amoxicillin 500 mg PO/NG Q8H 
RX *amoxicillin 500 mg 1 capsule(s) by mouth every 8 hours Disp 
#*18 Capsule Refills:*0 
3.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
Duration: 7 Days 
RX *chlorhexidine gluconate 0.12 % 15ml twice a day Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*12 Tablet Refills:*0 
6.  Senna 17.2 mg PO HS  
7.  Aspirin 81 mg PO DAILY  
8.  Allopurinol ___ mg PO DAILY  
9.  Atorvastatin 10 mg PO QPM  
10.  Metoprolol Succinate XL 50 mg PO DAILY  
11.  NIFEdipine (Extended Release) 30 mg PO DAILY  
12.Outpatient Physical Therapy
diagnosis: TBI, bilateral SDH, traumatic SAH
evaluate and treat
No heavy lifting greater than 10 lbs, no strenuous activity

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral acute Subdural hematoma
Left Tentorial Subdural hematoma
Traumatic Subarachnoid hemorrhage
Mal-positioned #9 and 10 maxillary teeth
Possible maxillary alveolar fracture between #8 and 9

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Traumatic Brain Injury

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon or 
neurology. You should avoid contact sports for 6 months. 

Medications
•Do not resume your aspirin until 7 days from your injury. 
•You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
•You were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___